US06235731B1
2) Synthesis of (E)-5-[1-(3-phenylpropan-1-yl)piperidin-4-yl]-1-(5-thia-1,8b-diazaacenaphthylen-4-yl)-1-penten-3-one
A solution of 0.362 g (0.878 mM) of (E)-5-(piperidin-4-yl]-1-(5-thia-1,8b-diazaacenaphthylen-4-yl)-1-penten-3-one dihydrochloride, 0.26 g (1.32 mM) of 1-bromo-3-phenylpropane, and 0.43 ml (3.07 mM) of triethylamine in 30 ml of ethanol was refluxed for 1 day. The reaction mixture was then poured in aqueous solution of sodium hydrogen carbonate and extracted with 3 portions of ethyl acetate. The organic layers were pooled and dried over MgSO4 and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate to ethyl acetate/methanol : 9/1) to provide the title compound.

reactant | (E)-5-(piperidin-4-yl]-1-(5-thia-1,8b-diazaacenaphthylen-4-yl)-1-penten-3-one dihydrochloride | 0.878 mM, 0.362 g | Cl.Cl.N1CCC(CC1)CCC(/C=C/C1=CC2=CN=C3C=CC=C(S1)N32)=O
reactant | 1-bromo-3-phenylpropane | 1.32 mM, 0.26 g | BrCCCC1=CC=CC=C1 | C9H11Br
reactant | triethylamine | 3.07 mM, 0.43 ml | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | (E)-5-[1-(3-phenylpropan-1-yl)piperidin-4-yl]-1-(5-thia-1,8b-diazaacenaphthylen-4-yl)-1-penten-3-one | C1(=CC=CC=C1)CCCN1CCC(CC1)CCC(/C=C/C1=CC2=CN=C3C=CC=C(S1)N32)=O | C28H31N3OS
